US04689182
Hexanoic acid (3.06 g) in 20 mL acetonitrile is treated with N-methylmorpholine (2.9 mL) and the mixture cooled to -20° C. with stirring. Ethyl chloroformate (2.8 mL) is then added dropwise, keeping the temperature below or at -20° C. After stirring for an additional 40 min at that temperature, the solution is transferred to a cooled (-15° C.) solution of alpha-amino-p-toluic acid (2.0 g), triethylamine (15 mL), a chlorotrimethylsilane (5.0 mL) in methylene chloride (60 mL; prepared as described in Example 7). After the addition is complete, the mixture is stirred at 5° C. for 4 hrs, followed by overnight stirring at room temperature. After removal of the solvents by evaporation, the residue is redissolved in methylene chloride (100 mL) and extracted with 1N HCl (2×50 mL) and brine (2×50 mL). The organic layer is dried over magnesium sulfate and evaporated, leaving N-(4-carboxybenzyl)hexanamide as an off-white solid. The N-(4-carboxybenzyl)hexanamide product is crystallized from methanol/2N HCl, m.p. 178°-179° C.

reactant | Hexanoic acid | 3.06 g | C(CCCCC)(=O)O | C6H12O2
reactant | N-methylmorpholine | 2.9 mL | CN1CCOCC1 | C5H11NO
reactant | Ethyl chloroformate | 2.8 mL | ClC(=O)OCC | C3H5ClO2
reactant | alpha-amino-p-toluic acid | 2.0 g | NCC1=CC=C(C=C1)C(=O)O | C8H9NO2
reactant | chlorotrimethylsilane | 5.0 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | N-(4-carboxybenzyl)-4-phenylbutyramide | 60 mL | C(=O)(O)C1=CC=C(CNC(CCCC2=CC=CC=C2)=O)C=C1 | C18H19NO3
solvent | triethylamine | 15 mL | C(C)N(CC)CC | C6H15N
product | N-(4-carboxybenzyl)hexanamide | C(=O)(O)C1=CC=C(CNC(CCCCC)=O)C=C1 | C14H19NO3
